US08008340B2
3-(2-Amino-phenylsulfanyl)-5-methoxy-1H-indole-2-carboxylic acid amide (Ie)
Treat 5-methoxy-1H-indole-2-carboxylic acid 1 (X═OCH3, 1.09 g, 5.71 mmol) as described in General Synthetic Procedure V to afford 5-methoxy-1H-indole-2-carboxylic acid amide 4 (X═OCH3, R2═R3═H; 536 mg, 49%) as yellow solid, mp 204-205° C.; 1H NMR (DMSO-d6) δ 11.3 (brs, 1H), 7.9 (brs, 1H), 7.3 (d, 2H), 7.1 (d, 2H), 6.8 (d, 1H). 3.8 (s, 3H); LC/MS: m/z obs=191 (M+1). Treat 5-methoxy-1H-indole-2-carboxylic acid amide (300 mg, 1.6 mmol) with 2-aminophenyldisulfide (1.4 equiv., 546 mg, 2.2 mmol) as described in General Synthetic Procedure VIIa to afford the title compound Ie (321 mg, 65%) as a light green solid, mp 203° C. (dec); 1H NMR (DMSO-d6) δ 12.0 (brs, 1H), 8.0-7.8 (2brs, 2H), 7.4 (d, 1H), 7.1-6.9 (m, 4H), 6.8 (m, 1H). 6.6 (m, 1H), 5.5 (m, 2H), 3.8 (s, 3H); LC/MS: m/z obs=314 (M+1).

reactant | 5-methoxy-1H-indole-2-carboxylic acid amide | 1.6 mmol, 300 mg | COC=1C=C2C=C(NC2=CC1)C(=O)N | C10H10N2O2
reactant | 2-aminophenyldisulfide | 2.2 mmol, 546 mg, 1.4 equiv. | NC1=C(C=CC=C1)SSC1=C(C=CC=C1)N | C12H12N2S2
product | 3-(2-Amino-phenylsulfanyl)-5-methoxy-1H-indole-2-carboxylic acid amide | NC1=C(C=CC=C1)SC1=C(NC2=CC=C(C=C12)OC)C(=O)N | C16H15N3O2S
